US07981924B2
A solution of 1-(3-ethyl-5,5-dimethyl-4,5,6,7-tetrahydro-benzo[c]thiophen-1-yl)-ethanone (200 mg, 0.846 mmol) and 3-(2-ethyl-4-formyl-6-methyl-phenyl)-acrylic acid (203 mg, 0.931 mmol) in methanolic NaOH (8 mL, 10 g NaOH in 100 mL methanol) is stirred at rt for 3 h before it is carefully acidified to pH 1 by adding 2 N aq. HCl. The mixture is extracted twice with DCM and the organic extracts are washed with water and brine, dried over MgSO4, filtered and evaporated. The crude product is crystallised from acetonitrile (40 mL) to give 3-{2-ethyl-4-[3-(3-ethyl-5,5-dimethyl-4,5,6,7-tetrahydro-benzo[c]thiophen-1-yl)-3-oxo-propenyl]-6-methyl-phenyl}-acrylic acid (222 mg) as yellow crystals. From the mother liquor a second crop (29 mg) of product can be obtained after purification by prep. HPLC (Grom-Sil 120 ODS-4-HE, 30×75 mm, 10 μm, acetonitrile/water (0.5% HCOOH), 20% to 95% acetonitrile); LC-MS: tR=1.20 min, [M+1]=437.31.

reactant | 1-(3-ethyl-5,5-dimethyl-4,5,6,7-tetrahydro-benzo[c]thiophen-1-yl)-ethanone | 0.846 mmol, 200 mg | C(C)C1=C2C(=C(S1)C(C)=O)CCC(C2)(C)C | C14H20OS
reactant | 3-(2-ethyl-4-formyl-6-methyl-phenyl)-acrylic acid | 0.931 mmol, 203 mg | C(C)C1=C(C(=CC(=C1)C=O)C)C=CC(=O)O | C13H14O3
reactant | HCl | 2 N | Cl | ClH
solvent | NaOH | 8 mL, 10 g | [OH-].[Na+]
product | 3-{2-ethyl-4-[3-(3-ethyl-5,5-dimethyl-4,5,6,7-tetrahydro-benzo[c]thiophen-1-yl)-3-oxo-propenyl]-6-methyl-phenyl}-acrylic acid | 222 mg | C(C)C1=C(C(=CC(=C1)C=CC(=O)C=1SC(=C2C1CCC(C2)(C)C)CC)C)C=CC(=O)O | C27H32O3S
